US06218404B1
N-(4-Aminobenzoyl)-N′-(5-(4-benzylpiperidin-1-yl)valeroyl)hydrazine
To a solution of N-(5-(4-benzylpiperidin-1-yl)valeroyl)-N′-(4-nitrobenzoyl)hydrazine (200 mg, 0.456 mmol) in 20 mL of methanol was added 50 mg of 5% Pd/C. The resulting mixture was hydrogenated at 30 psi of hydrogen for 3 hr. The catalyst was removed through a short column of Celite and was washed with methanol (15 mL). The extracts were evaporated in vacuo to give an oil, which was purified by flash chromatography to give the title product as a solid (60 mg, 32%):. mp 163-165° C.; 1H NMR (CDCl3) 1.26 (m, 2 H), 1.59 (m, 9 H), 1.92 (m, 2 H), 2.28 (m, 4 H), 2.52 (m, 2 H), 2.90 (m, 2 H), 3.29 (s, 2 H), 6.83 (d, J=8.1 Hz, 2 H), 7.10 (m, 3 H), 7.20 (m, 2 H), 7.63 (d, J=7.8 Hz, 2 H).

reactant | N-(5-(4-benzylpiperidin-1-yl)valeroyl)-N′-(4-nitrobenzoyl)hydrazine | 0.456 mmol, 200 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCCCC(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C24H30N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-(4-Aminobenzoyl)-N′-(5-(4-benzylpiperidin-1-yl)valeroyl)hydrazine | 60 mg, 32% | NC1=CC=C(C(=O)NNC(CCCCN2CCC(CC2)CC2=CC=CC=C2)=O)C=C1 | C24H32N4O2
